US05066658
To a stirred solution of di-t-butyldicarbonate (15.98 g, 73.2 mmol) in dioxane (75 ml) was added benzyloxyamine hydrochloride (11.7 g, 1.0 equiv.) and a solution of Na2CO3 (7.8 g) in water (75 ml). After 16 hours, the solution was partially evaporated to remove dioxane, and the residue was acidified with citric acid to pH 3. After extracting twice with ether, the extracts were dried (MgSO4), filtered and evaporated, to give t-butyl N-benzyloxycarbamate as a colorless oil which solidified (16.02 g, 98% yield). To this urethane (6.53 g, 29.2 mmol) in dimethylformamide (hereinafter DMF) (45 ml) under nitrogen at room temperature was added sodium hydride (1.29 g of a 60% dispersion in mineral oil). Gas evolved, and the colorless solution was stirred for 30 minutes. 1-Bromodecane (6.66 ml) was then added, and the mixture was heated to 70° C. After one hour, the mixture was poured into water (150 ml) and extracted twice with ether. The extracts were combined, washed with water and brine, dried (MgSO4), and evaporated.

reactant | di-t-butyldicarbonate | 73.2 mmol, 15.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyloxyamine hydrochloride | 11.7 g, 1.0 equiv. | Cl.C(C1=CC=CC=C1)ON
reactant | Na2CO3 | 7.8 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | water | 75 ml | O | H2O
product | t-butyl N-benzyloxycarbamate | 98% yield | C(C1=CC=CC=C1)ONC(OC(C)(C)C)=O | C12H17NO3
